US05366955
Fuming nitric acid (1.63 g) was added to a solution of 3-(2,4-difluorophenyl)-5-methyl-6-trifluoromethylpyrimidin-4-one (7.5 g) in conc. sulfuric acid (50 g) at 10° C. The reaction mixture was poured into water, and the resultant mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from diethyl ether to give 3-(2,4-difluoro-5-nitrophenyl)-5-methyl-6-trifluoromethylpyrimidine-4-one (6.4 g), m.p. 156.7° C.

reactant | nitric acid | 1.63 g | [N+](=O)(O)[O-] | HNO3
reactant | 3-(2,4-difluorophenyl)-5-methyl-6-trifluoromethylpyrimidin-4-one | 7.5 g | FC1=C(C=CC(=C1)F)N1C=NC(=C(C1=O)C)C(F)(F)F | C12H7F5N2O
reactant | water | O | H2O
solvent | sulfuric acid | 50 g | S(O)(O)(=O)=O | H2O4S
product | 3-(2,4-difluoro-5-nitrophenyl)-5-methyl-6-trifluoromethylpyrimidine-4-one | 6.4 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C=NC(=C(C1=O)C)C(F)(F)F | C12H6F5N3O3
